US07691902B2
Preparation 8: 3-Bromo-4-methoxybenzenamine
2-Bromo-1-methoxy-4-nitrobenzene (2.50 g, 10.8 mmol), SnCl2.2H2O (12.2 g, 53.9 mmol), and MeOH (30 mL) were combined and allowed to stir for 3 h at ambient temperature. To the mixture was added H2O (100 mL) and EtOAc (100 mL) resulting in the formation of a thick emulsion. To this was added sat. aq. NaHCO3 (30 mL). The layers were separated and the aqueous layer was extracted with EtOAc (3×30 mL). The organics were combined and dried over MgSO4 before being filtered. Concentration of the filtrate in vacuo gave 2.02 g of an off-white solid. This material was used without further purification.

reactant | 2-Bromo-1-methoxy-4-nitrobenzene | 10.8 mmol, 2.50 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | SnCl2.2H2O | 53.9 mmol, 12.2 g | O.O.Cl[Sn]Cl
reactant | MeOH | 30 mL | CO | CH4O
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 100 mL | O | H2O
product | 3-Bromo-4-methoxybenzenamine | 2.02 g | BrC=1C=C(C=CC1OC)N | C7H8BrNO
